US07838543B2
Step 1. N-{2-[(2-Dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-4-iodo-benzamide
The title compound is prepared by following Method C, using 4-iodo-benzoic acid (4.46 g, 17.97 mmol), oxalyl chloride (5.2 mL, 59.11 mmol) and N*2*-(2-dimethylamino-ethyl)-N*2*-methyl-benzothiazole-2,6-diamine (3.0 g, 11.98 mmol) to afford 3.77 g, 66%). LC/MS, Retention time=5.62 min; (m/z): calcd for C19H211N4OS: 480.4; found: 480.7.

reactant | 4-iodo-benzoic acid | 17.97 mmol, 4.46 g | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | oxalyl chloride | 59.11 mmol, 5.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N*2*-(2-dimethylamino-ethyl)-N*2*-methyl-benzothiazole-2,6-diamine | 11.98 mmol, 3.0 g | CN(CCN(C=1SC2=C(N1)C=CC(=C2)N)C)C | C12H18N4S
product | N-{2-[(2-Dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-4-iodo-benzamide | CN(CCN(C=1SC2=C(N1)C=CC(=C2)NC(C2=CC=C(C=C2)I)=O)C)C | C19H21IN4OS
